US07229943B2
2-{[(1H-benzimidazol-2-ylmethyl)thio]methyl}-1H-benzimidazole
A solution of 4.1 g (27.3 mmol) thiodiacetic acid and 4.9 g (27.3 mmol) o-phenylene diamine in 40 ml 4N HCl was stirred at reflux for 4 hours. The reaction mixture was cooled to room temperature an neutralised with conc. NH4OH. The formed precipitate was filtered, washed with water (3×40 ml) and dried under vacuum. Yield—2.4g (25.2%).

reactant | thiodiacetic acid | 27.3 mmol, 4.1 g | S(CC(=O)O)CC(=O)O | C4H6O4S
reactant | o-phenylene diamine | 27.3 mmol, 4.9 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | NH4OH | [NH4+].[OH-]
solvent | HCl | 4N, 40 ml | Cl | ClH
product | 2-{[(1H-benzimidazol-2-ylmethyl)thio]methyl}-1H-benzimidazole | N1C(=NC2=C1C=CC=C2)CSCC2=NC1=C(N2)C=CC=C1 | C16H14N4S
